US09169261B2
To a solution of (S)-tert-butyl N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)carbamate (0.88 g, 2.9 mmol, 1 eq) in 3.6 mL of dioxane was added a solution of 4.0 M HCl in dioxane (3.6 mL, 14.5 mmol, 5 eq). After heating for 1 h at 60° C., the mixture was concentrated to afford (S)-1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-amine (0.79 g, 2.9 mmol, 100%).

reactant | (S)-tert-butyl N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)carbamate | 2.9 mmol, 0.88 g, 1 eq | C=1(C=2N(C=CN1)C=CC2)N2C[C@H](CC2)NC(OC(C)(C)C)=O | C16H22N4O2
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 3.6 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 14.5 mmol, 3.6 mL, 5 eq | O1CCOCC1 | C4H8O2
product | (S)-1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-amine | 2.9 mmol, 0.79 g, 100% | C=1(C=2N(C=CN1)C=CC2)N2C[C@H](CC2)N | C11H14N4
